US06664260B2
Using the general method of Example 13 Part F, 2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethanol (0.9 g, 2.95 mmol) was reacted with 2-picolyl chloride hydrogen chloride (0.53 g, 3.24 mmol) and the product purified to provide 0.65 g of 4-phenoxy-1-[2-(pyridin-2-ylmethoxy)ethyl]-1H-imidazo[4,5-c]quinoline.

reactant | 2-(4-phenoxy-1H-imidazo[4,5-c]quinolin-1-yl)ethanol | 2.95 mmol, 0.9 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCO | C18H15N3O2
reactant | 2-picolyl chloride hydrogen chloride | 3.24 mmol, 0.53 g | Cl.N1=C(C=CC=C1)CCl
product | 4-phenoxy-1-[2-(pyridin-2-ylmethoxy)ethyl]-1H-imidazo[4,5-c]quinoline | 0.65 g | O(C1=CC=CC=C1)C1=NC=2C=CC=CC2C2=C1N=CN2CCOCC2=NC=CC=C2 | C24H20N4O2
